US05866568
N,N-Diisopropylethylamine (0.45 ml) was added to a solution of 2-chloropyridine-3-sulphonyl chloride (0.53 g) and 4-nitrophenol (0.35 g) in DMF (5 ml). The mixture was stirred at ambient temperature for 30 minutes then diluted with ethyl acetate (25 ml) and washed with water (2×25 ml), saturated sodium carbonate solution (3×20 ml), water (20 ml) and saturated sodium chloride solution. Aqueous layers were back-extracted with ethyl acetate (25 ml) and the organic layers were combined and dried (MgSO4). Volatile material was removed by evaporation to give 4-nitrophenyl 2-chloropyridine-3-sulphonate (0.52 g) as a solid, m.p. 127°-128° C.; 1H NMR (d6 -DMSO): 7.5 (d, 2 H), 7.7 (dd, 1 H), 8.3 (d, 2 H), 8.4 (dd, 1 H), 8.8 (dd, 1 H); mass spectrum (+ve FAB, NBAIDMSO): 315 (M+H)+.

reactant | N,N-Diisopropylethylamine | 0.45 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-chloropyridine-3-sulphonyl chloride | 0.53 g | ClC1=NC=CC=C1S(=O)(=O)Cl | C5H3Cl2NO2S
reactant | 4-nitrophenol | 0.35 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | 4-nitrophenyl 2-chloropyridine-3-sulphonate | 0.52 g | ClC1=NC=CC=C1S(=O)(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C11H7ClN2O5S
